US09260436B2
A mixture of 1.0 g of 2-amino-5-trifluoromethylpyridine-3-carboxylic acid amide, 810 mg of 2-ethylsulfanylbenzaldehyde, 1.01 g of sodium bisulfite and 3 ml of DMA was stirred at 150° C. for 12 hours. Water was added to the cooled reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 975 mg of 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-pyrido[2,3-d]pyrimidin-4-one.

reactant | 2-amino-5-trifluoromethylpyridine-3-carboxylic acid amide | 1.0 g | NC1=NC=C(C=C1C(=O)N)C(F)(F)F | C7H6F3N3O
reactant | 2-ethylsulfanylbenzaldehyde | 810 mg | C(C)SC1=C(C=O)C=CC=C1 | C9H10OS
reactant | sodium bisulfite | 1.01 g | S([O-])(O)=O.[Na+]
reactant | DMA | 3 ml | CC(=O)N(C)C | C4H9NO
solvent | Water | O | H2O
product | 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-pyrido[2,3-d]pyrimidin-4-one | 975 mg | C(C)SC1=C(C=CC=C1)C=1NC(C2=C(N1)N=CC(=C2)C(F)(F)F)=O | C16H12F3N3OS
